US05716984
(1RS, 2SR, 3SR)-3-[2-[(E)-2-Carboxyethen-1-yl]-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid
1,3-bis(diphenylphosphino)propane (0.066 mmol), tris(dibenzylideneacetone)dipalladium(0) (24 mg, 0.026) and bis(triphenylphosphine)palladium(II) chloride (18 mg, 0.026 mmol), were dissolved in a 4:1 mixture of triethylamine/acetonitrile (5 mL) under argon. After 10 min at room temperature, a solution of methyl (1RS, 2SR, 3RS)-3-(4-methoxy-2-trifluoromethanesulfonyloxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate (160 mg, 0.26 mmol) and methyl acrylate (679 mg, 7.89 mmol) was added in the above solvent mixture (3 mL). The reaction mixture was heated to reflux under argon for 20 h, cooled to room temperature and a small aliquot analyzed by 1H NMR, which showed no reaction had taken place. Palladium(II) acetate (6 mg, 0.025 mmol) and methyl acrylate (679 mg, 7.89 mmol) in dry DMF (5 mL) were then added. The reaction mixture was heated to reflux overnight. On cooling the solution was filtered through a short column of silica gel and concentrated to yield an oil. The crude product was purified by flash column chromatography (silica gel, gradient elution: 10% to 20% ethyl acetate/hexanes) to afford the title compound as a tan solid. (87 mg, 62%).

reactant | 1,3-bis(diphenylphosphino)propane | 0.066 mmol | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | 3-(4-methoxy-2-trifluoromethanesulfonyloxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylate | 0.26 mmol, 160 mg | COC1=CC(=C(C=C1)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)[O-])OS(=O)(=O)C(F)(F)F
reactant | methyl acrylate | 7.89 mmol, 679 mg | C(C=C)(=O)OC | C4H6O2
reactant | methyl acrylate | 7.89 mmol, 679 mg | C(C=C)(=O)OC | C4H6O2
solvent | triethylamine acetonitrile | 5 mL | C(C)N(CC)CC.C(C)#N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.026 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | Palladium(II) acetate | 0.025 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[2-[(E)-2-Carboxyethen-1-yl]-4-methoxyphenyl]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane-2-carboxylic acid | C(=O)(O)/C=C/C1=C(C=CC(=C1)OC)C1C(C(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2)C(=O)O | C30H28O8
